### PR TITLE
feat: add `BitVec.clzAuxRec_eq_clzAuxRec_of_getLsbD_false`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorem `BitVec.clzAuxRec_eq_clzAuxRec_of_getLsbD_false` as a more general statement than `BitVec.clzAuxRec_eq_clzAuxRec_of_le`, replacing the latter in the bitblaster too.

### CODE REVIEW

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean [hunk 1]
```diff
@@ -57,7 +57,7 @@ theorem go_denote_eq {w : Nat} (aig : AIG α)
           · simp [hx]
           · simp [Ref.hgate]
         · intro idx hidx
-          simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, reduceIte, 
+          simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, reduceIte,
```
Comment (luisacicolini) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Clz.lean]:
```suggestion
          simp only [Nat.add_eq_zero, Nat.succ_ne_self, and_false, reduceIte, 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -5761,15 +5761,21 @@ theorem clzAuxRec_zero (x : BitVec w) :
 theorem clzAuxRec_succ (x : BitVec w) :
     x.clzAuxRec (n + 1) = if x.getLsbD (n + 1) then BitVec.ofNat w (w - 1 - (n + 1)) else BitVec.clzAuxRec x n := by rfl
 
-theorem clzAuxRec_eq_clzAuxRec_of_le (x : BitVec w) (h : w - 1 ≤ n) :
-    x.clzAuxRec n = x.clzAuxRec (w - 1) := by
-  let k := n - (w - 1)
-  rw [show n = (w - 1) + k by omega]
+theorem clzAuxRec_eq_clzAuxRec_of_getLsbD_false (x : BitVec w) (h : ∀ i, n < i → x.getLsbD i = false) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem clzAuxRec_eq_clzAuxRec_of_getLsbD_false {x : BitVec w} (h : ∀ i, n < i → x.getLsbD i = false) :
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: addressed

**Comment by luisacicolini** [comment]
thanks @bollu, I addressed your suggestions and also re-added the old lemma (and used that one in the bitblaster, since it simplifies the proof by quite a bit), so this PR only contains the general version of the lemma.

**Comment by luisacicolini** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-07-08` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-08 10:48:42)
